US06537948B1
11.8 g of 2chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol and 5.2 g of 2-chloro-3-nitropyridine were dissolved in 10 ml of toluene, to this were added 2.3 g of potassium hydroxide and 56 mg of 18-crown-6, and the mixture was stirred for 3 hours at 90° C. The reaction solution was cooled to room temperature, then the solvent was distilled off, and the residue was poured into ice water, and the precipitated crystals were collected by filtration to obtain 11.5 g of 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-nitropyridine.

reactant | 2chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol | 11.8 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H7ClF4N2O3
reactant | 2-chloro-3-nitropyridine | 5.2 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium hydroxide | 2.3 g | [OH-].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 18-crown-6 | 56 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-nitropyridine | 11.5 g | ClC1=C(OC2=NC=CC=C2[N+](=O)[O-])C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H9ClF4N4O5
